Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
BRBPR and abdominal pain post-colonoscopy
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ woman with a history of HTN, breast 
cancer in remission, Sjogren's, and a history of colonic polyps 
who underwent screening colonoscopy on ___. She presented to 
the ED this evening with abdominal pain and BRBPR.  
Patient underwent screening colonoscopy with Dr. ___ 
today. She had a single, sessile 10 mm polyp of benign 
appearance in the cecum. A single-piece polypectomy was 
performed using a hot snare in the cecum and the polyp was 
completely removed. Shortly after going home, she developed 
severe abdominal pain and had three episodes of BRBPR, which 
were not all associated with a bowel movement. No lightheaded, 
dizziness, palpitations, CP, SOB, or LOC. Not on blood thinners 
or anti-plt.  
She presented to the ___ ED, where initial vitals were ___ 
148/67 18 100%. Labs showed a leukocytosis to 14.5 but stable 
H/H. A CTA was performed due to post procedural abdominal pain 
and was negative for perforation or active bleeding. It showed 
post-polypectomy changes in the cecum and mild prominence of the 
pancreatic duct to 4mm and CBD to 8mm with two sub-cm 
hypodensities noted in the pancreatic body and tail. GI was 
consulted and advised admission for observation.  
On the floor, initial vitals were 98.5 147/69, 90, 20 99 RA. 
Patient has had no further episodes of bleeding but abdominal 
pain has persisted. It is RLQ and sharp, constant. She has never 
had pain like this before. No fevers or chills. She is nauseous 
but has not vomited.  
 
Review of Systems: As above
 
Past Medical History:
- Breast Cancer ___: in remission  
- GERD  
- HTN  
- Inflammatory Arthropathy  
- Microscopic hematuria  
- Migraine  
- NASH  
- Thyroid nodule  
- Sjogren's  
 
Social History:
___
Family History:
Mother: DM, MI, CHF  
Father was murdered 
No family history of bleeding or clotting disorders
 
Physical Exam:
PHYSICAL EXAM ON ADMISSION:
======================================
Vitals- 98.5 147/69, 90, 20 99 RA  
General- Alert, oriented, no acute distress  
HEENT- Sclera anicteric, MMM, oropharynx clear  
Neck- supple, JVP not elevated, no LAD  
Lungs- Clear to auscultation bilaterally, no wheezes, rales, 
ronchi, slightly decreased breath sounds R base vs. L  
CV- Regular rate and rhythm, normal S1 + S2, III/VI systolic 
murmur  
Abdomen- soft, tender in RLQ without r/g, bowel sounds present, 
no organomegaly. Negative ___.  
GU- no foley  
Ext- warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro- CNs2-12 intact, motor function grossly normal  

PHYSICAL EXAM ON DISCHARGE:
======================================
VS: 98.2  136/80  96 (HRs 85-102)  18  100%RA
General- Alert, oriented, no acute distress. Sitting up in bed. 
HEENT- Sclera anicteric, MMM, oropharynx clear  
Neck- supple, no LAD  
Lungs- Clear to auscultation bilaterally 
CV- Regular rate and rhythm, normal S1 + S2, soft systolic 
murmur  
Abdomen- soft, very mildly tender in RLQ without r/g, bowel 
sounds present, no organomegaly.  
Ext- warm, well perfused, no ___ edema 
Neuro- CNs2-12 intact, motor function grossly normal, no focal 
deficits 
 
Pertinent Results:
LABS:
===============================
___ 08:35PM BLOOD WBC-14.5*# RBC-4.30 Hgb-12.4 Hct-39.1 
MCV-91 MCH-28.8 MCHC-31.7 RDW-13.6 Plt ___
___ 08:35PM BLOOD Neuts-85.2* Lymphs-10.1* Monos-2.8 
Eos-1.4 Baso-0.4
___ 08:35PM BLOOD ___ PTT-31.1 ___
___ 07:50PM BLOOD Glucose-115* UreaN-10 Creat-0.8 Na-140 
K-3.9 Cl-104 HCO3-25 AnGap-15
___ 06:40AM BLOOD WBC-5.8 RBC-3.76* Hgb-11.0* Hct-33.6* 
MCV-89 MCH-29.3 MCHC-32.8 RDW-13.6 Plt ___
___ 06:40AM BLOOD ___ PTT-29.9 ___
___ 06:40AM BLOOD Glucose-116* UreaN-7 Creat-0.7 Na-144 
K-3.6 Cl-109* HCO3-30 AnGap-9
___ 06:40AM BLOOD Calcium-9.1 Phos-3.5 Mg-2.1

IMAGING:
===============================
CT ABD & PELVIS W & W/O CONTRAST, ADDL SECTIONSStudy Date of 
___
IMPRESSION:
1. There is mild bowel wall thickening and edema in the region 
of the cecum consistent with post polypectomy changes. There is 
however no evidence of active bleeding or perforation. 
2. Mild prominence of the pancreatic duct to 4mm and CBD to 8mm 
with two
sub-cm hypodensities noted in the pancreatic body and tail.  
Further
characterization is recommended with an MRCP in the non-emergent 
setting. 
3. Hepatic steatosis. 
 
Brief Hospital Course:
PRIMARY REASON FOR HOSPITALIZATION:
===============================================
Patient is a ___ woman with a history of 
Sjogren's/inflammatory arthritis and colonic polyps who presents 
with BRBPR and RLQ pain several hours after screening 
colonoscopy. 

ACTIVE ISSUES:
===============================================
# BRBPR: Patient presented with BRBPR and RLQ pain several hours 
after screening colonoscopy. Patient described 3 episodes of 
BRBPR as well as acute onset sharp RLQ pain with associated 
nausea. She was admitted for observation. CTA of the abdomen and 
pelvis showed no evidence of perforation or bleeding. Overnight 
her pain resolved but her Hct dropped from 39.1 to 34.5; however 
vital signs were stable and she had no further episodes of 
bleeding and a repeat Hct in the afternoon was 36.4. She was 
observed for 1 night; she had no further BRBPR and morning Hct 
was 33.6. CTA upon admission was significant for 4mm pancreatic 
duct and 8mm CBD as well as 2 hypodensities in the pancreatic 
body and tail. It was recommended she follow up with GI (Dr. 
___ in 2 weeks to consider MRCP. She was discharged with 
instructions to adhere to a liquid diet for 1-day and to return 
to the ED if she had any further BRPBR.

CHRONIC ISSUES:
===============================================
# HTN: She was continued on her home valsartan and amlodipine. 
Her metoprolol was held in the setting of potential GI bleeding. 
It was restarted upon discharge.

# Sjogren's/Inflammatory Arthritis: She was continued on her 
home plaquenil.

# Hyperlipidemia: She was continued on her home statin.

TRANSITIONAL ISSUES:
===============================================
- Needs MRCP as an outpatient to further evaluate CT findings 
(Mild prominence of the pancreatic duct to 4mm and CBD to 8mm 
with two sub-cm hypodensities noted in the pancreatic body and 
tail).
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q8H:PRN pain 
2. Valsartan 320 mg PO DAILY 
3. Hydroxychloroquine Sulfate 200 mg PO DAILY 
4. Metoprolol Succinate XL 100 mg PO DAILY 
5. Amlodipine 2.5 mg PO DAILY 
6. Pravastatin 40 mg PO HS 
7. Multivitamins W/minerals 1 TAB PO DAILY 
8. Omeprazole 20 mg PO DAILY 
9. Calcium 500 + D (D3) (calcium carbonate-vitamin D3) 
500mg-200units  oral BID 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q8H:PRN pain 
2. Amlodipine 2.5 mg PO DAILY 
RX *amlodipine 2.5 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
3. Hydroxychloroquine Sulfate 200 mg PO DAILY 
4. Omeprazole 20 mg PO DAILY 
5. Pravastatin 40 mg PO HS 
6. Valsartan 320 mg PO DAILY 
7. Calcium 500 + D (D3) (calcium carbonate-vitamin D3) 
500mg-200units  oral BID 
8. Metoprolol Succinate XL 100 mg PO DAILY 
9. Multivitamins W/minerals 1 TAB PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bright red blood per rectum

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure to care for you here at ___ 
___. You were admitted on ___ after having 
bleeding from your rectum. This was thought to be due to the 
colonoscopy you had earlier that day. You were observed 
overnight, without any further episodes of bleeding.

You should continue a liquid diet for the next 1 day. If you 
have any more blood per rectum, you will need to return to the 
Emergency Room for a repeat colonoscopy.

Because of some abnormalities seen on your abdominal CAT scan, 
you will need to follow-up with Dr. ___ in the next 2-weeks.
 
Followup Instructions:
___